US07968571B2
A solution of N-benzyl-2,2-difluoro-N-[(2-methylcyclopropyl)methyl]ethanamine (1.25 g, 5.2 mmol) and hydrochloric acid (5.7 mmol, 1.44 mL of a 4M solution in dioxane) in ethanol (50 mL) was degassed with nitrogen and treated with palladium hydroxide (125 mg). The reaction was placed under a hydrogen atmosphere and stirred vigorously for 1 hour. The reaction was filtered through celite, washed with methanol and concentrated in vacuo to give (2,2-difluoroethyl)[(2-methylcyclopropyl)methyl]amine as a pale yellow oil: 1H NMR (400 MHz, CD3OD) δ 6.35 (tt, 48, 3 Hz, 1H), 3.56 (td, J=15.6, 3.1 Hz, 2H), 3.03 (m, 2H), 1.11 (d, J=5.9 Hz, 3H), 0.83 (m, 2H), 0.60 (m, 1H), 0.50 (m, 1H).

reactant | N-benzyl-2,2-difluoro-N-[(2-methylcyclopropyl)methyl]ethanamine | 5.2 mmol, 1.25 g | C(C1=CC=CC=C1)N(CC(F)F)CC1C(C1)C | C14H19F2N
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 125 mg | [OH-].[Pd+2].[OH-]
product | (2,2-difluoroethyl)[(2-methylcyclopropyl)methyl]amine | FC(CNCC1C(C1)C)F | C7H13F2N
